US07378415B2
To a solution of phosgene (1.44 mL of a 1.8 M solution in dichloromethane, 2.64 mmol) at 0° C. was added a solution of 7-benzenesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine (0.663 g., 2.4 mmol) in 3 mL dichloromethane followed by dropwise addition of triethylamine (0.361 mL, 2.6 mmol) over three minutes. The reaction was allowed to warm to room temperature and was stirred for an hour. The reaction mixture was then concentrated in vacuo, and then dissolved in 50 mL dichloromethane which was removed in vacuo. A suspension of the crude residue in 60 mL of 1:1 ethyl ether: hexanes was washed with 3 times with 50 mL of 6N aqueous hydrogen chloride. The organic fractions were dried over MgSO4 and concentrated in vacuo to give 7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl chloride, which was used directly in the following step.

reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | 7-benzenesulfonyl-3,4-dihydro-2H-benzo[1,4]oxazine | 2.4 mmol, 0.663 g | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(NCCO2)C=C1 | C14H13NO3S
reactant | triethylamine | 2.6 mmol, 0.361 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 7-benzenesulfonyl-2,3-dihydro-benzo[1,4]oxazine-4-carbonyl chloride | C1(=CC=CC=C1)S(=O)(=O)C1=CC2=C(N(CCO2)C(=O)Cl)C=C1 | C15H12ClNO4S
